US06380387B1
N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-[1,3-dimethyl-2,4-dioxo-5-pyrimidinyl]-L-phenylalanine was prepared from 4-[1,3-dimethyl-2,4-dioxo-5-pyrimidinyl]-L-phenylalanine methyl ester and 2-bromo-5-methoxybenzoic acid using the general procedures described in example 2. EI-HRMS m/e calcd for C23H22N3O6Br (M+H) 516.0770, found 516.0780.

reactant | 4-[1,3-dimethyl-2,4-dioxo-5-pyrimidinyl]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)=O | C16H19N3O4
reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
product | N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-[1,3-dimethyl-2,4-dioxo-5-pyrimidinyl]-L-phenylalanine | BrC1=C(C=C(C=C1)OC)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C(=O)O | C23H22BrN3O6
